US08957064B2
4-(2-Cyclopropyl-6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde
This compound was prepared in a manner according to 4-(2-methyl-6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde by using 3-cyclopropyl-1H-pyrazol-5 amine in the first step.

reactant | 4-(2-methyl-6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=C1 | C20H15N3O
reactant | 3-cyclopropyl-1H-pyrazol-5 amine | C1(CC1)C1=NNC(=C1)N | C6H9N3
product | 4-(2-Cyclopropyl-6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | C1(CC1)C1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=C1 | C22H17N3O
